US05180735
To a solution of O-chloroacetylcarbamoyl fumagillol (209 mg) in ethanol (2 ml) was added a 15% aqueous solution of methanethiol.sodium salt (500 μl), and the mixture was stirred for one hour at room temperatures. The reaction mixture was concentrated, to which was added ethyl acetate. The organic layer was washed with water and a saturated aqueous solution of sodium chloride, followed by drying over anhydrous magnesium sulfate. The solvent was distilled off under reduced pressure, and the residue was purified by means of a silica gel column chromatography (carrier 10 g, developing solvent: hexane-ethyl acetate=2:1) to afford 4-O-carbamoyl-2-(1,2-epoxy-1,5-dimethyl-4-hexenyl) -3-methoxy-1-methylthiomethyl-1,4-cyclohexanediol (136 mg: yield 70%) as colorless powder.

reactant | O-chloroacetylcarbamoyl fumagillol | 209 mg | CC(=CC[C@H]1[C@](O1)(C)[C@H]2[C@@H]([C@@H](CC[C@]23CO3)OC(=O)NC(=O)CCl)OC)C | C19H28ClNO6
reactant | methanethiol | CS | CH4S
reactant | sodium | 500 μl | [Na] | Na
solvent | ethanol | 2 ml | C(C)O | C2H6O
product | 4-O-carbamoyl-2-(1,2-epoxy-1,5-dimethyl-4-hexenyl) -3-methoxy-1-methylthiomethyl-1,4-cyclohexanediol | 136 mg, yield 70% | C(N)(=O)OC1C(C(C(CC1)(O)CSC)C1(C(CC=C(C)C)O1)C)OC | C18H31NO5S
